US08247436B2
Step 2: 3-Amino-5,6-bis(trifluoromethyl)pyrazine-2-carboxylic acid
To a stirring solution of ethyl 3-amino-5,6-bis(trifluoromethyl)pyrazine-2-carboxylate (300 mg, 0.990 mmol) in EtOH (10 ml), 2M NaOH (0.495 ml, 0.990 mmol) was added dropwise over 1 minute. After stirring at RT for 30 minutes the reaction mixture was poured into water (30 ml) and the pH was adjusted to pH 4 by addition of 1M HCl. The mixture was extracted with EtOAc (2×50 ml) and the combined organic extracts were washed with brine (30 ml), dried over MgSO4 (5 g), filtered and concentrated in vacuo to afford the title compound as an off white crystalline solid;

reactant | ethyl 3-amino-5,6-bis(trifluoromethyl)pyrazine-2-carboxylate | 0.990 mmol, 300 mg | NC=1C(=NC(=C(N1)C(F)(F)F)C(F)(F)F)C(=O)OCC | C9H7F6N3O2
reactant | NaOH | 0.990 mmol, 2M, 0.495 ml | [OH-].[Na+]
reactant | water | 30 ml | O | H2O
reactant | HCl | 1M | Cl | ClH
solvent | EtOH | 10 ml | CCO | C2H6O
product | 3-Amino-5,6-bis(trifluoromethyl)pyrazine-2-carboxylic acid | NC=1C(=NC(=C(N1)C(F)(F)F)C(F)(F)F)C(=O)O | C7H3F6N3O2
